US05840917
3-Acetyl-2-thiophenecarboxylic acid (3.0 g) was dissolved in N,N-dimethylformamide (50 ml), and iodomethane (4.0 ml) and potassium carbonate (6.0 g) were added. The mixture was stirred at room temperature for 3 hours, poured into water and extracted with ethyl acetate. The extract was dried over anhydrous magnesium sulfate and concentrated under reduced pressure to give 3-acetyl-2-thiophenecarboxylic acid methyl ester (3.07 g) as crystals.

reactant | 3-Acetyl-2-thiophenecarboxylic acid | 3.0 g | C(C)(=O)C1=C(SC=C1)C(=O)O | C7H6O3S
reactant | iodomethane | 4.0 ml | IC | CH3I
reactant | potassium carbonate | 6.0 g | C([O-])([O-])=O.[K+].[K+]
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 50 ml | CN(C=O)C | C3H7NO
product | 3-acetyl-2-thiophenecarboxylic acid methyl ester | 3.07 g | COC(=O)C=1SC=CC1C(C)=O | C8H8O3S
